US04861873
A mixture of dry 8-bromo-cAMP (20 g, 49 mmol) and CaCl2 (20 g, 180 mmol, dried at 75° under vacuum overnight) in anhydrous DMF (800 mL, distilled over CaH2 under vacuum) was heated at 80°-85° C. under anhydrous conditions with stirring for 15 h. DMF was evaporated under reduced pressure at 50° C. and the residue was dissolved in cold 2N NaOH (20 mL). The aqueous solution was neutralized (to pH 7) with cold 2N HCl, filtered through a membrane filter and purified by preparative HPLC on a C-18 reverse phase column. Initial washing with 0.5% AcOH/H2O gave 8-hydroxy-cAMP and cAMP. Further elution with 15% MeOH/H2O gave pure title compound. Evaporation of the solvent gave while solid, which was collected, washed with cold water followed by EtOH and dried to furnish 14.0 g (79%) of 4, mp 232°-234° C.: IR (KBr): 655 (C-C1) cm-1 : UV: λmax (pH 1) 260 nm (ε 15,600): λmax (pH 7) 261 nm (ε 15,700): λmax (pH 11) 261 nm (ε 15,900): 1H NMR (Me2SO-d6): δ 4.13 (m, 2, C5'H2), 4.56-4.39 (m, 1, C4'H), 4.99-4.97 and 5.17-5.13 (m, 2, C2'H and C3'H), 5.85 (s, 1, C1H), 7.67 (br, s, 2, NH2) and 8.21 (s, 1, C2H). Anal. Calcd for C10H11C1N5O6P.H2O: C, 31.47: H, 3.43: N, 18.53: C1, 9.29. Found: C, 31.69: H, 3.19: N, 18.26: C 1, 9.52.

reactant | 8-bromo-cAMP | 49 mmol, 20 g | C1[C@@H]2[C@H]([C@H]([C@@H](O2)N3C4=C(C(=NC=N4)N)N=C3Br)O)OP(=O)(O1)O | C10H11BrN5O6P
reactant | CaCl2 | 180 mmol, 20 g | [Cl-].[Cl-].[Ca+2]
solvent | DMF | 800 mL | CN(C)C=O | C3H7NO
product | cAMP | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@H]4[C@H](O3)COP(=O)(O4)O)O)N | C10H12N5O6P
